US08349851B2
A solution of 5-methyl-1H-pyrazol-3-amine (225 mg, 2.31 mmol), potassium iodide (188 mg, 0.088 mmol), and 2-(4-fluorobenzoyl)-7-methylquinazolin-4-yl2,4,6-triisopropylbenzenesulfonate (380 mg, 0.69 mmol) in DMA (2 mL) was stirred at 50° C. for 6 h, then water was added and the solution was filtered. The solid was then dried and triturated with acetonitrile to give (4-fluorophenyl)(7-methyl-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone (36 mg, 14%). 1H NMR (300 MHz, DMSO-d6) δ 2.18 (s, 3H), 2.50 (s, 3H), 6.53 (s, 1H), 7.38 (t, 2H), 7.51 (d, 2H), 7.66 (s,1H), 8.08 (m, 2H), 8.62 (d, 1H), 10.57 (s, 1H), 12.18 (s, 1H); LC-MS (ESI) m/z 362 (M+H)+.

reactant | 5-methyl-1H-pyrazol-3-amine | 2.31 mmol, 225 mg | CC1=CC(=NN1)N | C4H7N3
reactant | potassium iodide | 0.088 mmol, 188 mg | [I-].[K+]
reactant | 2-(4-fluorobenzoyl)-7-methylquinazolin-4-yl2,4,6-triisopropylbenzenesulfonate | 0.69 mmol, 380 mg | FC1=CC=C(C(=O)C2=NC3=CC(=CC=C3C(=N2)C=2C(=C(C(=CC2C(C)C)C(C)C)S(=O)(=O)[O-])C(C)C)C)C=C1
reactant | water | O | H2O
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | (4-fluorophenyl)(7-methyl-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 36 mg, 14% | FC1=CC=C(C=C1)C(=O)C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C | C20H16FN5O
